US04609650
16β-Ethyl-17β-(2-hydroxy-4-methylvaleryloxy)acetoxy-4-estren-3-one
In 2.0 ml of acetone is dissolved 0.26 g of leucic acid, and 1.0 ml of 2N-NaOH is added, followed by addition of 0.44 g of 16β-ethyl-17β-bromoacetoxy-4-estren-3-one and 15 ml of DMF. The mixture is refluxed for 3 hours, and thereafter treated in the same manner as Example 26. The reaction mixture is then subjected to column chromatography. Following passage of 50 ml of diisopropyl ether-n-hexane (1:1), elution is carried out with 200 ml of diisopropyl ether. The eluate is evaporated under reduced pressure to remove the solvent, giving 0.475 g of the above-identified compound as a viscous oil.

reactant | leucic acid | 0.26 g | C(C(O)CC(C)C)(=O)O | C6H12O3
reactant | NaOH | [OH-].[Na+]
reactant | 16β-ethyl-17β-bromoacetoxy-4-estren-3-one | 0.44 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(CBr)=O | C22H31BrO3
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | acetone | 2.0 ml | CC(=O)C | C3H6O
product | 16β-Ethyl-17β-(2-hydroxy-4-methylvaleryloxy)acetoxy-4-estren-3-one | 0.475 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(COC(C(CC(C)C)O)=O)=O | C28H42O6
